### ISSUE TITLE
[TODO] Section 162: Complete 3 expense deduction proofs

### ISSUE THREAD

**Issue by kavanaghpatrick** [kavanaghpatrick/us-tax-code-lean#58]
## Context

During Phase 2 bug fixes (issue #41), we verified that §162(f), §162(m), and §162(e) provisions were already implemented but had failing proofs. Replaced with `sorry` for build stability.

## Location

**File**: `src/TaxCode/Section162.lean`

### 1. `exec_comp_cap_enforced` (Line 254)

**Current**:
```lean
theorem exec_comp_cap_enforced (e : Expense) (amt : Currency) :
  e.type = ExpenseType.ExecutiveCompensation true true amt →
  e.ordinary ∧ e.necessary ∧ e.paidOrIncurred ∧ e.tradeOrBusiness →
  amt > 1000000 →
  deductibleAmount e = 1000000 := by
  intro h_type h_conditions h_exceeds
  unfold deductibleAmount
  simp [h_conditions]
  rw [h_type]
  simp
  -- TODO: Complete proof with stable tactics
  sorry
```

**What's needed**: Prove `min amt 1000000 = 1000000` when `amt > 1000000`

**Suggested approach**: 
- Use `Int.min_eq_right` with `Int.le_of_lt h_exceeds`
- Or use `norm_num` after substitution

### 2. `lobbying_always_zero` (Line 287)

**Current**:
```lean
theorem lobbying_always_zero (e : Expense) (direct : Bool) (amt : Currency) :
  e.type = ExpenseType.LobbyingExpense direct amt →
  e.ordinary ∧ e.necessary ∧ e.paidOrIncurred ∧ e.tradeOrBusiness →
  deductibleAmount e = 0 := by
  intro h_type h_conditions
  unfold deductibleAmount
  simp [h_conditions]
  -- TODO: Complete proof with stable tactics
  sorry
```

**What's needed**: After simplification, show the match case returns 0

**Suggested approach**: `rw [h_type]; simp` should work

### 3. `lobbying_direct_and_grassroots_zero` (Line 298)

**Current**:
```lean
theorem lobbying_direct_and_grassroots_zero (e : Expense) (amt : Currency) :
  (e.type = ExpenseType.LobbyingExpense true amt ∨ e.type = ExpenseType.LobbyingExpense false amt) →
  e.ordinary ∧ e.necessary ∧ e.paidOrIncurred ∧ e.tradeOrBusiness →
  deductibleAmount e = 0 := by
  intro h_type h_conditions
  unfold deductibleAmount
  simp [h_conditions]
  -- TODO: Complete proof with stable tactics
  sorry
```

**What's needed**: Case on the disjunction, then apply similar logic to theorem 2

**Suggested approach**: `cases h_type <;> (rw [·]; simp)`

## Logic Verification

The **logic is correct** - all three expense types are properly handled:
- Line 112: Executive comp capped at $1M for public companies
- Line 114: Lobbying expenses always zero deduction

These proofs just formalize that the implementation matches the requirements.

## Related

- Original issue: #41
- Commit: 2ff38f6

## Priority

**LOW** - Build stable, logic verified, only formal proofs missing
